US07851500B2
E. Preparation of tert-butyl 1-(phenylsulfonyl)azetidin-3-ylcarbamate
To a stirred suspension of tert-butyl azetidin-3-ylcarbamate (4.61 g, contaminated with diphenylmethane 1:1, ˜13.39 mmoles) in dichloromethane (150 mL), was added triethylamine (3.73 mL, 26.77 mmoles) and benzenesulfonyl chloride (2.57 mL, 20.08 mmoles). The reaction was stirred at room temperature for ˜4 hours and became a solution. Sat. ammonium chloride was added to the mixture and the aqueous phase was extracted with dichloromethane (3×). The combined organic layers were dried over anhydrous magnesium sulphate, filtered and concentrated. The residue was precipitated from dichloromethane/hexanes 1:1 to give the title material (1.073 g, ˜26%) as a solid. The mother liquor was concentrated and the residue was purified on Biotage (0 to 20% acetonitrile in dichloromethane) to afford the title material (2.46 g, ˜58%). 1H NMR 400 MHz CDCl3 δ (ppm): 1.42 (9H, s), 3.60 (2H, br s), 4.06 (2H, dd, J=8.7 and 7.7 Hz), 4.35 (1H, br s), 4.70 (1H, br s), 7.60-7.64 (2H, m), 7.68-7.72 (1H, m), 7.86-7.88 (2H, m).

reactant | tert-butyl azetidin-3-ylcarbamate | ˜13.39 mmoles, 4.61 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | triethylamine | 26.77 mmoles, 3.73 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 20.08 mmoles, 2.57 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl 1-(phenylsulfonyl)azetidin-3-ylcarbamate | 1.073 g, ~26% | C1(=CC=CC=C1)S(=O)(=O)N1CC(C1)NC(OC(C)(C)C)=O | C14H20N2O4S
